US06686363B2
A suspension of 5(R)-azidomethyl-3-[4-(1-cyanocyclopropan-1-yl)-3-fluorophenyl]oxazolidin-2-one (122 mg) and Lindlar catalyst (12 mg) in methanol (5 mL) was hydrogenated at 1 atm for 3 hours at room temperature. After filtration of the catalyst, the filtrate was concentrated in vacuo to give 5(S)-aminomethyl-3-[4-(1-cyanocyclopropan-1-yl)-3-fluorophenyl]oxazolidin-2-one. To a solution of crude 5(S)-aminomethyl-3-[4-(1-cyanocyclopropan-1-yl)-3-fluorophenyl]oxazolidin-2-one thus obtained in dichloromethane (2 mL) was added pyridine (96 mg) and methanesulfonyl chloride (70 mg) at 0° C., and the mixture was stirred at the same temperature for 30 min. The mixture was washed with water and 5% hydrochloric acid, dried over anhydrous magnesium sulfate, filtered, and then concentrated in vacuo. Flash chromatography (silica, ethyl acetate) of the residue gave N-[5(S)-3-[4-(1-cyanocyclopropan-1-yl)-3-fluorophenyl]-2-oxooxazolidin-5-ylmethyl]methanesulfonylamide. MS (EI+) m/z: 353 (M+).

reactant | 5(R)-azidomethyl-3-[4-(1-cyanocyclopropan-1-yl)-3-fluorophenyl]oxazolidin-2-one | 122 mg | N(=[N+]=[N-])C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1(CC1)C#N)F | C14H12FN5O2
catalyst | Lindlar catalyst | 12 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | methanol | 5 mL | CO | CH4O
product | 5(S)-aminomethyl-3-[4-(1-cyanocyclopropan-1-yl)-3-fluorophenyl]oxazolidin-2-one | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1(CC1)C#N)F | C14H14FN3O2
